US07338960B2
Ethyl ({4-[(1-(6-bromo-2-pyridinyl)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-2-methylphenyl}oxy)acetate
To a solution of Ph3P (1.10 g, 4.19 mmol) in dry THF (30 mL), was treated with ethyl [(4-hydroxy-2-methylphenyl)oxy]acetate (696 mg, 3.31 mmol) and 1-(6-bromo-2-pyridinyl)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethanol (1.00 g, 3.01 mmol) and the resulting solution cooled to 0° C. (ice/water bath) under nitrogen. DIAD (0.829 ml, 4.21 mmol) in THF (30 ml) was then added drop-wise over 2 h using a syringe pump. The resulting mixture was then allowed to warm to ambient temperature over 22.5 h and was then reduced under vacuum to give an orange oily residue. Purification by SPE (silica, 10 g cartridge) eluting with cyclohexane:EtOAc (gradient, 1:1 to 0:1) afforded the title compound (429 mg).

reactant | Ph3P | 4.19 mmol, 1.10 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | ethyl [(4-hydroxy-2-methylphenyl)oxy]acetate | 3.31 mmol, 696 mg | OC1=CC(=C(C=C1)OCC(=O)OCC)C | C11H14O4
reactant | 1-(6-bromo-2-pyridinyl)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethanol | 3.01 mmol, 1.00 g | BrC1=CC=CC(=N1)C(CO[Si](C)(C)C(C)(C)C)O | C13H22BrNO2Si
reactant | DIAD | 4.21 mmol, 0.829 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Ethyl ({4-[(1-(6-bromo-2-pyridinyl)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-2-methylphenyl}oxy)acetate | 429 mg | BrC1=CC=CC(=N1)C(CO[Si](C)(C)C(C)(C)C)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C24H34BrNO5Si
